US07825253B2
N5-[3-(2-Methoxy-ethoxymethyl)-benzyl]-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=432.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3-(2-methoxy-ethoxymethyl)-benzylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3-(2-methoxy-ethoxymethyl)-benzylamine | COCCOCC=1C=C(CN)C=CC1 | C11H17NO2
product | N5-[3-(2-Methoxy-ethoxymethyl)-benzyl]-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | COCCOCC=1C=C(CNC=2C=3C=CC(=NC3C=CC2)NCC=2OC(=CC2)C)C=CC1 | C26H29N3O3
